US07067517B2
3-Methyl-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and 1-methyl-3-(3-methyl-piperidine-1-carbonyl)-3H-imidazol-1-ium iodide. The crude product was purified by flash chromatography using a Quad flash 25 (ethyl acetate/heptane (1:6), (75%, white crystals). HPLC-MS m/z=381.1 (M+1), Rt: 5.4 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | 1-methyl-3-(3-methyl-piperidine-1-carbonyl)-3H-imidazol-1-ium iodide | [I-].C[N+]1=CN(C=C1)C(=O)N1CC(CCC1)C
product | 3-Methyl-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CC(CCC1)C)(F)F | C19H19F3N2O3
